US05576343
Preparation of Ethyl 2-[4-[((2S)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate
1.04 g of diethyl azodicarboxylate was added to 300 ml of a tetrahydrofuran solution containing 1 g of ethyl 3-(5-cyano-2-benzofuranyl)-2-(4-hydroxyphenyl)propionate, 1.2 g of (2S)-1-tert-butoxycarbonyl-2-pyrrolidinemethanol and 1.56 g of triphenylphosphine, and the thus prepared mixture was stirred at room temperature for 18 hours. To the resulting reaction solution were added 0.6 g of (2S)-1-tert-butoxycarbonyl-2-pyrrolidinemethanol, 0.78 g of triphenylphosphine and 0.52 g of diethyl azodicarboxylate, followed by additional stirring at room temperature for 18 hours. Thereafter, the reaction solution thus obtained was concentrated to dryness, and the resulting residue was purified by subjecting it to silica gel column chromatography using a toluene/ethyl acetate mixture as an eluant. In this way, 790 mg of the title compound was obtained in the form of colorless oil.

reactant | diethyl azodicarboxylate | 1.04 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 3-(5-cyano-2-benzofuranyl)-2-(4-hydroxyphenyl)propionate | 1 g | C(#N)C=1C=CC2=C(C=C(O2)CC(C(=O)OCC)C2=CC=C(C=C2)O)C1 | C20H17NO4
reactant | (2S)-1-tert-butoxycarbonyl-2-pyrrolidinemethanol | 1.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | triphenylphosphine | 1.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S)-1-tert-butoxycarbonyl-2-pyrrolidinemethanol | 0.6 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | triphenylphosphine | 0.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.52 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Ethyl 2-[4-[((2S)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate | 790 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)C(C(=O)OCC)CC=1OC2=C(C1)C=C(C=C2)C#N | C30H34N2O6
